US07585869B2
3-[2-Methyl-4-(6-pyrrolidin-1-yl-pyrido[3,4-d]pyrimidin-4-ylamino)-phenoxy]-benzoic acid tert-butyl ester:
The Title compound was prepared from 3-[4-(6-Fluoro-pyrido[3,4-d]pyrimidin-4-ylamino)-2-methyl-phenoxy]-benzoic acid tert-butyl ester and pyrrolidine by a procedure analogous to that described for the synthesis of Cyclopentyl-{4-[2-methyl-4-(6-pyrrolidin-1-yl-pyrido[3,4-d]pyrimidin-4-ylamino)-phenoxy]-piperidin-1-yl}-methanone. LRMS: 498.3 (MH+). 1H NMR (DMSO-d6, 400 MHz): δ 9.60 (s, 1H), δ 8.76 (s, 1H), δ 8.31 (s, 1H), δ 7.73-7.76 (m, 2H), δ 7.56-7.58 (m, 1H), δ 7.45 (t, J=7.89, 1H), δ 7.31-7.32 (m, 1H), δ 7.13-7.16 (m, 1H), δ 7.09 (s, 1H), 7.01 (d, J=9.14, 1H), δ 3.45-3.48 (m, 4H), δ 2.15 (s, 3H), δ 1.97-2.01 (m, 4H), δ 1.48 (s, 9H).

reactant | 3-[4-(6-Fluoro-pyrido[3,4-d]pyrimidin-4-ylamino)-2-methyl-phenoxy]-benzoic acid tert-butyl ester | C(C)(C)(C)OC(C1=CC(=CC=C1)OC1=C(C=C(C=C1)NC=1C2=C(N=CN1)C=NC(=C2)F)C)=O | C25H23FN4O3
reactant | pyrrolidine | N1CCCC1 | C4H9N
reactant | Cyclopentyl-{4-[2-methyl-4-(6-pyrrolidin-1-yl-pyrido[3,4-d]pyrimidin-4-ylamino)-phenoxy]-piperidin-1-yl}-methanone | C1(CCCC1)C(=O)N1CCC(CC1)OC1=C(C=C(C=C1)NC=1C2=C(N=CN1)C=NC(=C2)N2CCCC2)C | C29H36N6O2
product | 3-[2-Methyl-4-(6-pyrrolidin-1-yl-pyrido[3,4-d]pyrimidin-4-ylamino)-phenoxy]-benzoic acid tert-butyl ester | C(C)(C)(C)OC(C1=CC(=CC=C1)OC1=C(C=C(C=C1)NC=1C2=C(N=CN1)C=NC(=C2)N2CCCC2)C)=O | C29H31N5O3
